US05917040
2-Fluoro-6-methoxvacetyladenine (IIc)
2-Fluoroadenine (1 g, ca. 95% pure) was added with stirring to boiling (heating mantle) methoxyacetic anhydride (MAA, 15 mL). A clear solution was obtained. The heating mantle was removed immediately, the hot solution was stirred for an additional 5 minutes and evaporated to dryness (vacuum pump). The residual product was dissolved in methanol (10 mL) to destroy the remaining MAA, and the reaction mixture evaporated to dryness (aspirator). The crude product was dissolved in THF (10 mL), the solution diluted with CH2Cl2 (50 mL) and carefully neutralized using 10% aq. sodium bicarbonate. The aqueous layer was separated and extracted with more CH2Cl2 (2×50 mL). The organic layers were combined, dried (MgSO4), charcoaled and the solvent evaporated (aspirator) to yield the crude product Ic. This was dissolved in hot aq. THF (95% THF: 5% water, 10 mL), and the cloudy solution was filtered (celite) and refrigerated for several hours. Crystalline amide IIc was separated, washed with a mixture of THF and Et2O (1:1, 5 mL) and dried to give the product IIc, 850 mg, mp 221-223° C. Rework of the mother liquor afforded the second crop, 100 mg, mp 221-223° C. Total yield was 950 mg (68%).

reactant | 2-Fluoroadenine | 1 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
reactant | methoxyacetic anhydride | 15 mL | COCC(=O)OC(COC)=O | C6H10O5
product | 2-Fluoro-6-methoxvacetyladenine | FC1=NC(C2=NC=NC2=N1)(N)C(COC)=O | C8H8FN5O2
